US04524205
280 g (2.83 mols) of phosgene and 224 g (2.83 mols) of pyridine are metered synchronously into 1,600 g of methylene chloride at -10° C. in the course of 180 minutes. A fine-crystalline, pale yellow suspension results. After filtration with suction, with exclusion of moisture, 480 g (=95.5% of theory) of N-chlorocarbonyl-pyridinium chloride of decomposition point 60° C. are obtained.

reactant | phosgene | 2.83 mols, 280 g | C(=O)(Cl)Cl | CCl2O
reactant | pyridine | 2.83 mols, 224 g | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 1,600 g | C(Cl)Cl | CH2Cl2
product | N-chlorocarbonyl-pyridinium chloride | 480 g, 95.5% | [Cl-].ClC(=O)[N+]1=CC=CC=C1 | InChI=1S/C6H5ClNO.ClH/c7-6(9)8-4-2-1-3-5-8;/h1-5H;1H/q+1;/p-1
